US08389720B2
N-[2-(4,4-difluoropiperidin-1-yl)-2-phenylethyl]-N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]cyclohexanecarboxamide
3-({[2-(4,4-difluoropiperidin-1-yl)-2-phenylethyl]amino}methyl)-1-methylquinolin-2(1H)-one (52 mg, 0.126 mmol), HATU (57.7 mg, 0.152 mmol), cyclohexanecarboxylic acid (0.019 ml, 0.152 mmol), and DIEA (0.026 ml, 0.152 mmol) were combined in DMF (1.5 ml) and the reaction heated at 50° C. for 0.75 hours. The mixture was purified directly by reversed-phase chromatography (15-95% ACN in water (with 0.5 ml/l NH4OH) over 20 min at 20 ml/min, 20×100 mm Phenomenex Gemini C18 column). Fractions containing desired material were concentrated in vacuo and repurified by reversed-phase chromatography (5-50% ACN (with 0.1% TFA) in water (with 0.1% TFA) over 20 min at 20 ml/min, 20×100 mm Phenomenex Gemini C18 column). Desired fractions were free-based via Phenomenex Strata X-C cartridge. HRMS [M+H] 1+ 522.2936. 1H NMR (400 MHz, CDCl3): δ 7.60-7.55 (m, 1 H), 7.53-7.49 (m, 1 H), 7.39 (d, J=8.52 Hz, 1 H), 7.35-7.28 (m, 4 H), 7.25-7.19 (m, 3 H), 4.50-4.35 (m, 2 H), 4.16-4.07 (m, 1 H), 3.88 (t, J=7.6 Hz, 1 H), 3.76 (s, 3 H), 3.31 (dd, J=7.38 Hz, 13.42 Hz, 1 H), 2.69-2.65 (m, 2 H), 2.53-2.43 (m, 2 H), 2.28-2.20 (m, 1 H), 2.01-1.88 (m, 4 H), 1.74-1.34 (m, 7 H), 1.25-1.05 (m, 3 H). 29.8 mg, 45%.

reactant | 3-({[2-(4,4-difluoropiperidin-1-yl)-2-phenylethyl]amino}methyl)-1-methylquinolin-2(1H)-one | 0.126 mmol, 52 mg | FC1(CCN(CC1)C(CNCC=1C(N(C2=CC=CC=C2C1)C)=O)C1=CC=CC=C1)F | C24H27F2N3O
reactant | HATU | 0.152 mmol, 57.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | cyclohexanecarboxylic acid | 0.152 mmol, 0.019 ml | C1(CCCCC1)C(=O)O | C7H12O2
reactant | DIEA | 0.152 mmol, 0.026 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | N-[2-(4,4-difluoropiperidin-1-yl)-2-phenylethyl]-N-[(1-methyl-2-oxo-1,2-dihydroquinolin-3-yl)methyl]cyclohexanecarboxamide | FC1(CCN(CC1)C(CN(C(=O)C1CCCCC1)CC=1C(N(C2=CC=CC=C2C1)C)=O)C1=CC=CC=C1)F | C31H37F2N3O2
